US07932394B2
(Step 1) Production of 4-(4-methoxyphenyl)-1,3-oxazole
10 ml of formamide was added to 2 g of 2-bromo-4′-methoxyacetophenone, and stirred at 180° C. for 20 minutes. This was restored to room temperature, diluted with ethyl acetate, and washed with water and saturated saline water. After dried, the solvent was evaporated away under reduced pressure, and the residue was purified through silica gel column chromatography (developing solvent: hexane to hexane/ethyl acetate=7/3) to obtain 0.76 g of the entitled compound.

reactant | formamide | 10 ml | C(=O)N | CH3NO
reactant | 2-bromo-4′-methoxyacetophenone | 2 g | BrCC(=O)C1=CC=C(C=C1)OC | C9H9BrO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-methoxyphenyl)-1,3-oxazole | 0.76 g | COC1=CC=C(C=C1)C=1N=COC1 | C10H9NO2
